US07691854B2
Ethyl(3S)-3-(acetoacetyloxy)butanoate
5.7 g (43.2 mmol) Ethyl(3S)-3-hydroxybutanoate and 44 mg (0.43 mmol) triethylamine are dissolved in 40 ml toluene. At 90° C., 4.7 g (56.1 mmol) diketene are added dropwise. The reaction mixture is stirred at 100° C. for one hour. After cooling down to room temperature, the mixture is poured into ice-water. The phases are separated and the aqueous phase is extracted two times with toluene. The combined organic phases are dried over sodium sulfate, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate mixtures as eluent.

reactant | Ethyl(3S)-3-hydroxybutanoate | 43.2 mmol, 5.7 g | O[C@H](CC(=O)OCC)C | C6H12O3
reactant | triethylamine | 0.43 mmol, 44 mg | C(C)N(CC)CC | C6H15N
reactant | diketene | 56.1 mmol, 4.7 g | C=C1CC(=O)O1 | C4H4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl(3S)-3-(acetoacetyloxy)butanoate | C(CC(=O)C)(=O)O[C@H](CC(=O)OCC)C | C10H16O5
